US07579359B2
Ethoxyamine hydrochloride (2.34 g, 2.0 eq) was added to a solution of N-(4-chloroquinolin-3-yl)butyramide (3.0 g, 1.0 eq) in ethanol (75 mL). The reaction mixture was heated at reflux for 3 hours, cooled to ambient temperature, and then concentrated under reduced pressure. The residue was partitioned between dichloromethane and aqueous saturated sodium bicarbonate. The organic layer was separated and concentrated under reduced pressure to provide 2.89 g of 1-ethoxy-2-propyl-1H-imidazo[4,5-c]quinoline.

reactant | Ethoxyamine hydrochloride | 2.34 g, 2.0 eq | Cl.C(C)ON
reactant | N-(4-chloroquinolin-3-yl)butyramide | 3.0 g, 1.0 eq | ClC1=C(C=NC2=CC=CC=C12)NC(CCC)=O | C13H13ClN2O
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 1-ethoxy-2-propyl-1H-imidazo[4,5-c]quinoline | 2.89 g | C(C)ON1C(=NC=2C=NC=3C=CC=CC3C21)CCC | C15H17N3O
